US07968570B2
A mixture of 2-bromomethyl-benzoic acid methyl ester (0.115 g, 0.5 mmol), 4-phenoxy-benzylamine (0.106 mL, 0.6 mmol), and K2CO3 (0.207 g, 1.5 mmol) in toluene (3 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 2-(4-phenoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.095 g, 61%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.28 (s, 2H), 4.79 (s, 2H), 6.98-7.54 (m, 12H), 7.89 (d, 1H). GC-MS: m/z 315 (M)+.

reactant | 2-bromomethyl-benzoic acid methyl ester | 0.5 mmol, 0.115 g | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
reactant | 4-phenoxy-benzylamine | 0.6 mmol, 0.106 mL | O(C1=CC=CC=C1)C1=CC=C(CN)C=C1 | C13H13NO
reactant | K2CO3 | 1.5 mmol, 0.207 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 2-(4-phenoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.095 g, 61% | O(C1=CC=CC=C1)C1=CC=C(CN2C(C3=CC=CC=C3C2)=O)C=C1 | C21H17NO2
